US09238644B2
(a) Methyl 1-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxylate (A41)
A mixture of methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate K2 (1.34 g, 6.67 mmol), 2,4,-dichloro-5-methylpyrimidine (1.41 g, 8.67 mmol), CuI (0.063 g, 0.33 mmol), PdCl2(PPh3)2 (0.234 g, 0.333 mmol) and tri-t-butylphosphonium tetrafluoroborate (0.097 g, 0.33 mmol) in 1,4-dioxane (15 mL) was bubbled with N2 for 10 minutes. DIPEA (3.48 mL, 20.0 mmol) was added and the reaction mixture was stirred under N2 at 80° C. for 3 hours. The reaction mixture was cooled and the volatiles were removed in vacuo to give a black residue that was purified by column chromatography (Biotage Isolera, 2×40 g SiO2 cartridges, 0-50% EtOAc in petroleum benzine 40-60° C.) to give the impure title compound A41 as a yellow oil (estimated 80% purity, 1.352 g, 50%). LCMS-A: rt 6.79 min; m/z 327 [M+H]+.

reactant | methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)OC | C13H12O2
reactant | 2,4,-dichloro-5-methylpyrimidine | 8.67 mmol, 1.41 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.33 mmol, 0.097 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | DIPEA | 20.0 mmol, 3.48 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.33 mmol, 0.063 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.333 mmol, 0.234 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 1-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxylate | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C1(CC1)C(=O)OC)C | C18H15ClN2O2
